US07279474B2
2-(2,4-dichlorophenyl)hexanedioic acid 6-ethyl ester 1-methyl ester
To a solution of i-Pr2NH (0.921 mL, 1.2 eq) in anh. THF (22 mL), at 0° C., under N2, was added a 1.6 M solution of BuLi in hexane (3.42 mL, 1 eq) and the mixture was stirred at 0° C. for 10 min. It was then cooled to −78° C. and a solution of methyl 2,4-dichlorophenylacetate (1.2 g, 5.478 mmol) in anh. THF (3.3 mL) was added dropwise. The mixture was stirred at −78° C. for 45 min before the addition of a solution of ethyl 4-iodobutyrate (1.72 g, 1.3 eq) in anh. THF (2 mL). The cooling bath was then removed and the mixture was stirred at r.t. for 4 hr. The solvents were evaporated under reduced pressure. The residue was dissolved in CH2Cl2, washed with water (2×25 mL) and brine (1×25 mL) and dried over anh. Na2SO4. The solids were filtered and the solvent evaporated. The crude product was purified by flash chromatography (silica gel, cHex/EtOAc 9:1). Mixed fractions were repurified with the same eluent. The title compound was obtained as a pale yellow oil (1.36 g, 4.088 mmol, 75%).

reactant | i-Pr2NH | 0.921 mL, 1.2 eq | N(C(C)C)C(C)C | C6H15N
reactant | BuLi | [Li]CCCC
reactant | hexane | 3.42 mL, 1 eq | CCCCCC | C6H14
reactant | methyl 2,4-dichlorophenylacetate | 5.478 mmol, 1.2 g | ClC1=C(C=CC(=C1)Cl)CC(=O)OC | C9H8Cl2O2
reactant | ethyl 4-iodobutyrate | 1.72 g, 1.3 eq | ICCCC(=O)OCC | C6H11IO2
solvent | THF | 22 mL | C1CCOC1 | C4H8O
solvent | THF | 3.3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(2,4-dichlorophenyl)hexanedioic acid 6-ethyl ester 1-methyl ester | COC(C(CCCC(=O)OCC)C1=C(C=C(C=C1)Cl)Cl)=O | C15H18Cl2O4
